US07781460B2
Step a: 1-Cyclopentyl-1H-indazole-6-carboxaldehyde
A solution of the compound 6-bromo-1-cyclopentyl-1H-indazole (1.19 g, 4.15 mmol) in dry tetrahydrofuran (10 ml) was stirred at −78° C. for 15 minutes followed by the addition of butyl lithium (0.532 g, 8.3 mmol). The reaction mixture was again stirred for 30 minutes at −78° C. followed by the dropwise addition of dimethylformamide (1.212 g, 16.6 mmol). The reaction mixture was stirred for 30 minutes at the same temperature followed by stirring it at room temperature for 1 hour. The reaction mixture was quenched with hydrochloric acid (1N) and extracted the compound with ethyl acetate and water. The organic layer was collected, washed with brine and dried over anhydrous sodium sulphate. The mixture was filtered and concentrated under reduced pressure. The residue thus obtained was purified by column chromatography to furnish the title compound. Yield: 465 mg.

reactant | 6-bromo-1-cyclopentyl-1H-indazole | 4.15 mmol, 1.19 g | BrC1=CC=C2C=NN(C2=C1)C1CCCC1 | C12H13BrN2
reactant | butyl lithium | 8.3 mmol, 0.532 g | C(CCC)[Li]
reactant | dimethylformamide | 16.6 mmol, 1.212 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Cyclopentyl-1H-indazole-6-carboxaldehyde | C1(CCCC1)N1N=CC2=CC=C(C=C12)C=O | C13H14N2O
